US07427612B2
4-(2-Chloro-4-fluoro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester
The title compound was prepared according to the procedure described for example AX from 1-bromo-2-chloro-4-fluorobenzene and N-Boc-piperazine (10%, off white solid, MS (m/e): 315.1(M+H, 100%)

reactant | 1-bromo-2-chloro-4-fluorobenzene | BrC1=C(C=C(C=C1)F)Cl | C6H3BrClF
reactant | N-Boc-piperazine | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
product | 4-(2-Chloro-4-fluoro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C=C1)F)Cl | C15H20ClFN2O2
